US06696473B2
A. Preparation of 4′-Ethoxy-3′-nitroacetophenone
To a solution of 4′-hydroxy-3′-nitroacetophenone (1.0 g, 5.5 mmol) in anhydrous DMF (20 mL) was added anhydrous K2CO3 (3.0 g, 22 mmol) and then bromoethane (0.49 mL, 6.6 mmol). After heating at 80° C. for 20 h, the reaction mixture was cooled, combined with satd aqueous NH4Cl (50 mL) and extracted with Et2O (2×100 mL). The combined organic layers were washed with water (3×50 mL), 1 N NaOH (50 mL) and then brine (50 mL), dried (Na2SO4) and concentrated under reduced pressure to afford the title compound (1.1 g, 96%) as a light brown solid, which was used without further purification. 1H-NMR (CDCl3): δ 8.41 (1H, d), 8.15 (1H, dd), 7.14 (1H, d), 4.28 (2H, q), 2.61 (3H, s), 1.52 (3H, t).

reactant | 4′-hydroxy-3′-nitroacetophenone | 5.5 mmol, 1.0 g | OC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C8H7NO4
reactant | K2CO3 | 22 mmol, 3.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoethane | 6.6 mmol, 0.49 mL | BrCC | C2H5Br
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4′-Ethoxy-3′-nitroacetophenone | 1.1 g, 96% | C(C)OC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C10H11NO4
